US07153854B2
To a solution of ethyl(2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propenoate (50 mg) in toluene was added dropwise 1.5 M diisobutylalminum hydride (0.277 mL) in toluene (24 mL) in a dryice-acetone bath. After addition, the mixture was stirred for 2 hours (−10° C.). The reaction mixture was quenched with sodium, potassium-tartarate and was filtered through Celite. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel chromatography (silica gel, 40 mL) eluted with hexane-ethyl acetate=10-1, 5-1, and 3-1 to give (2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propen-1-ol as an yellow solid (30 mg).

reactant | ethyl(2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propenoate | 50 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)/C=C/C(=O)OCC)C(C)C | C21H20ClFN2O2
reactant | hydride | 1.5 M, 0.277 mL | [H-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
product | (2E)-3-[7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]-2-propen-1-ol | 30 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)/C=C/CO)C(C)C | C19H18ClFN2O
